US05977116
2-(2-Fluorophenyl)propanoic acid (7.7 g, 0.046 mol), 1-benzylpiperazine (8.0 g, 0.045 mol), triethylamine (4.6 g, 0.046 mol) and 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride (9.6 g, 0.050 mol) were dissolved in dichloromethane (150 ml) and stirred at room temperature for 18 h. The solution was evaporated and the residue diluted with water and extracted with brine, dried and evaporated. Chromatography on silica gel with dichloromethane-methanol (97:3) yielded 4-benzyl-1-[2-(2-fluorophenyl)propanoyl]piperazine (5.54 g, 38%) as an oil.

reactant | 2-(2-Fluorophenyl)propanoic acid | 0.046 mol, 7.7 g | FC1=C(C=CC=C1)C(C(=O)O)C | C9H9FO2
reactant | 1-benzylpiperazine | 0.045 mol, 8.0 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | triethylamine | 0.046 mol, 4.6 g | C(C)N(CC)CC | C6H15N
reactant | 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride | 0.050 mol, 9.6 g | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 4-benzyl-1-[2-(2-fluorophenyl)propanoyl]piperazine | 5.54 g, 38% | C(C1=CC=CC=C1)N1CCN(CC1)C(C(C)C1=C(C=CC=C1)F)=O | C20H23FN2O
